US07521446B2
Benzyl cis-4-[N,N-dibenzylamino]cyclohexane carboxylate
cis-4-Aminocyclohexanecarboxylic acid (10.0 g, 67.48 mmol) was dissolved in 140 mL of dry acetonitrile. Solid potassium carbonate (28.0 g, 202.6 mmol) was added. The suspension was heated to about 80° C. To this solution, was added benzyl bromide (28.09 mL, 236.2 mmol) in 70 mL of acetonitrile, dropwise via addition funnel. The reaction mixture was stirred at about 80° C. under nitrogen for about 2 hours then about 40° C. overnight. The reaction was cooled to room temperature and the suspension was filtered. The filtrate was concentrated under reduced pressure. The compound was purified using column chromatography on silica gel (100% hexanes to remove excess benzyl bromide, then 10% ethyl acetate in hexanes). The product was isolated as a white solid (14.35 g, 51% yield): ES-MS (m/z) 414.

reactant | cis-4-Aminocyclohexanecarboxylic acid | 67.48 mmol, 10.0 g | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | potassium carbonate | 202.6 mmol, 28.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 236.2 mmol, 28.09 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 140 mL | C(C)#N | C2H3N
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | Benzyl cis-4-[N,N-dibenzylamino]cyclohexane carboxylate | 14.35 g, 51% yield | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@H]1CC[C@H](CC1)C(=O)OCC1=CC=CC=C1 | C28H31NO2
